US04505905
To a solution of 235 μL of hexamethyldisilazane in 30 mL of dry tetrahydrofuran under argon at 0° was added 735 μL of butyllithium (1.37M in hexane) over a 2 min period. After addition was complete, the solution was cooled to -78°. A solution of 425 mg of 3-phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester, in 3 mL of dry tetrahydrofuran was added over a 3 min period. After addition was complete, the solution was stirred for 10 min at -78° and then 120 μL of freshly distilled benzaldehyde was added. After an additional 5 min, 150 μL of acetic acid was added and the reaction mixture was evaporated to a small volume on the rotary evaporator. The residue was partitioned between water and methylene chloride and water, and the organic layer was washed with brine, dried over sodium sulfate and evaporated to dryness. The crude reaction product was subjected to preparative thin layer chromatography on four 20×20×0.2 cm silica gel plates eluted with ether-petroleum ether (1:1) to afford two diastereomers of 3-phenylthio-6-(α-hydroxybenzyl)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester, as glasses. Isomer A (153 mg, 28.8%) was the less polar compound; Isomer B (278 mg, 52.4%) was more polar. Material prepared by essentially the same procedure had the following spectral characteristics:

reactant | hexamethyldisilazane | 235 μL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | butyllithium | 1.37M, 735 μL | C(CCC)[Li]
reactant | 3-phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester | 425 mg | C1(=CC=CC=C1)SC1=C(C2C(CC2C1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22O3S
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 150 μL | C(C)(=O)O | C2H4O2
product | 3-phenylthio-6-(α-hydroxybenzyl)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester | C1(=CC=CC=C1)SC1=C(C2C(C(C2C1)C(C1=CC=CC=C1)O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H28O4S
